US07495007B2
5-Chloro-2-hydroxy-benzaldehyde (30 g, 192 mmol), bromo-acetic acid methyl ester (29.4 g, 192 mmol), K2CO3 (53 g, 384 mmol) and KI (9.6 g, 57 mmol) were mixed in acetone (100 mL). Then the mixture was heated at 80° C. for 30 min. The mixture was filtered and the filterate was concentrated. The residue was dissolve in ethyl acetate and washed with base aqueous solution (1N NaOH). The organic layer was separated, dried and concentrated to give (4-chloro-2-formyl-phenoxy)-acetic acid methyl ester yellow solid. (44 g)

reactant | 5-Chloro-2-hydroxy-benzaldehyde | 192 mmol, 30 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | bromo-acetic acid methyl ester | 192 mmol, 29.4 g | COC(CBr)=O | C3H5BrO2
reactant | K2CO3 | 384 mmol, 53 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | (4-chloro-2-formyl-phenoxy)-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)Cl)C=O)=O | C10H9ClO4
